* NMOS Conduction Testbench

* Include model file
.Include 32nm_MGK.pm

* Set temperature
.temp 25

* Set ngspice options
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

* Parameters
.PARAM Lmin=32n
.PARAM Wmin=8*32n
.PARAM Ldiff=64n

* NMOS transistor definition
Mn drain gate source body pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

* Voltage sources
Vd 	drain	  alim     0
Vg 	gate	  0 	0
Vs 	source	0    0
Vb 	body	  0     0
Vdd  	  0     alim    0

* Control block for DC sweep
.CONTROL
let voltage=0
let Vddbasic= 0.9
while voltage le Vddbasic
  let voltage = voltage + 0.01
  alter Vdd = voltage
  dc TEMP 25 50 26
  print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb) >> input_poff.txt
end
.ENDC
.END
